US08314100B2
b) Ethyl N-(6,7-difluoro-2-methoxyquinoxalin-3-yl)carbamate
2-Amino-6,7-di fluoro-3-methoxyquinoxaline (550 mg, 2.60 mmol) and ethyl chloroformate (564 mg, 5.20 mmol) were dissolved in dichloromethane (50 ml) at room temperature and thereto pyridine (411 mg, 5.20 mmol) was added. The mixture was stirred at room temperature for 13 hours and concentrated under the reduced pressure to remove the solvent, and purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (3:1) mixture and concentration gave 440 mg of the titled compound (yield, 60%).

reactant | 2-Amino-6,7-di fluoro-3-methoxyquinoxaline | 2.60 mmol, 550 mg | NC1=NC2=CC(=C(C=C2N=C1OC)F)F | C9H7F2N3O
reactant | ethyl chloroformate | 5.20 mmol, 564 mg | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | 5.20 mmol, 411 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl N-(6,7-difluoro-2-methoxyquinoxalin-3-yl)carbamate | 440 mg, 60% | FC=1C=C2N=C(C(=NC2=CC1F)OC)NC(OCC)=O | C12H11F2N3O3
